
vdd 1 0 dc 12v
m3 1 1 2 0 aaa3
m2 2 2 3 0 aaa2
m1 3 3 0 0 aaa1
ma3 4 4 1 1 bbbma3
ma4 6 4 1 1 bbbma4
ma1 4 7 5 0 aaaa1
ma2 6 8 5 0 aaaa2
m4 5 3 0 0 aaa4
ma5 9 6 1 1 bbbma5
m5 9 3 0 0 aaa5
cc 6 9 4p
.model aaa1 nmos(kp=1.073u vto=1.73 lambda=0.002 gamma=0 w=11.49U l=1U tox=2u cgso=73.61p cgdo=6.487p cbd=74.46p)
.model aaa2 nmos(kp=1.073u vto=1.73 lambda=0.002 gamma=0 w=11.49U l=1U tox=2u cgso=73.61p cgdo=6.487p cbd=74.46p)
.model aaa3 nmos(kp=1.073u vto=1.73 lambda=0.002 gamma=0 w=1.01U l=1U tox=2u cgso=73.61p cgdo=6.487p cbd=74.46p)
.model aaa4 nmos(kp=1.073u vto=1.73 lambda=0.002 gamma=0 w=11.49U l=1U tox=2u cgso=73.61p cgdo=6.487p cbd=74.46p)
.model aaaa1 nmos(kp=1.073u vto=1.73 lambda=0.002 gamma=0 w=6.5U l=1U tox=2u cgso=73.61p cgdo=6.487p cbd=74.46p)
.model aaaa2 nmos(kp=1.073u vto=1.73 lambda=0.002 gamma=0 w=6.5U l=1U tox=2u cgso=73.61p cgdo=6.487p cbd=74.46p)
.model bbbma3 pmos(kp=10.43u vto=-3.533 lambda=0.002 gamma=0 w=0.16U l=1U tox=100n cgso=2.288n cgdo=138.5p cbd=899.2p)
.model bbbma4 pmos(kp=10.43u vto=-3.533 lambda=0.002 gamma=0 w=0.16U l=1U tox=100n cgso=2.288n cgdo=138.5p cbd=899.2p)
.model aaa5 nmos(kp=1.073u vto=1.73 lambda=0.002 gamma=0 w=11.1U l=1U tox=2u cgso=73.61p cgdo=6.487p cbd=74.46p)
.model bbbma5 pmos(kp=10.43u vto=-3.533 lambda=0.002 gamma=0 w=0.311U l=1U tox=100n cgso=2.288n cgdo=138.5p cbd=899.2p)
*vo 6 0 dc 6v

*vs 7 70 dc 6v
*vss 70 0 sin(0 0.674 1k 0 0 0)
*vl 8 80 dc 6v
*vll 80 0 sin(0 0.674 1k 0 0 0)

* for AC analysis®t¼Ò-------
*vminus 7 70 ac -5u
*vminus_dc 70 0 dc 6
*vplus 8 80 ac 5u
*vplus_dc 80 0 dc 6
*.tran 0.01m 20m 0 0.01m
*.ac dec 500 0.000001 1000meg
*--------------------------

* for AC analysis¦@¼Ò-------
vminus 7 70 ac 500u
vminus_dc 70 0 dc 6
vplus 8 80 ac 500u
vplus_dc 80 0 dc 6
*.tran 0.01m 20m 0 0.01m
.ac dec 500 0.000001 1000meg
*--------------------------


.op
.probe
.end